US05217866
6.4 Preparation of 6-azidopurine pyrrolidone
The 6-chloropurine pyrrolidone (1 mmol) is treated with lithium azide (2 mmol) in dimethyl sulfoxide (2 ml) at 30°-100° C. for several h. At the end of this time the mixture is evaporated under reduced pressure, dissolved in chloroform, washed with 10% sodium bicarbonate, and the organic layer dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica using a gradient of methanol in chloroform (0-25%).

reactant | 6-chloropurine pyrrolidone | 1 mmol | N1C(CCC1)=O.ClC1=C2NC=NC2=NC=N1
reactant | lithium azide | 2 mmol | [N-]=[N+]=[N-].[Li+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 6-azidopurine pyrrolidone | N1C(CCC1)=O.N(=[N+]=[N-])C1=C2NC=NC2=NC=N1 | InChI=1S/C5H3N7.C4H7NO/c6-12-11-5-3-4(8-1-7-3)9-2-10-5;6-4-2-1-3-5-4/h1-2H,(H,7,8,9,10);1-3H2,(H,5,6)
